US07504408B2
5-Chloro-7-iodo-1,3-benzodioxol-4-amine (1.0 g, 3.36 mmol) and [(prop-2-yn-1-yloxy)methyl]cyclopropane (739 mg, 6.72 mmol) in ethyl acetate (12 ml) were cooled in ice-methanol, under an atmosphere of nitrogen, then treated with bis(triphenylphosphine) palladium(II) dichloride (236 mg, 10 mol %) followed by copper(I) iodide (64 mg, 10 mol %) and diisopropylamine (681 mg, 6.74 mmol). The reaction was allowed to warm to room temperature and stirred for 4 hours and then filtered through Celite. The filtrate was purified by column chromatography on silica using 40% methyl tert-butyl ether in iso-hexane as eluent to give 5-chloro-7-[3-(cyclopropylmethoxy)prop-1-yn-1-yl]-1,3-benzodioxol-4-amine (850 mg, 90%) as a dark orange oil; NMR Spectrum: (CDCl3) 0.25 (m, 2H), 0.56 (m, 2H), 1.08 (m, 1H), 3.40 (d, 2H), 4.03 (s, 2H), 4.40 (s, 2H), 6.00 (s, 2H), 6.88 (s, 1H).

reactant | 5-Chloro-7-iodo-1,3-benzodioxol-4-amine | 3.36 mmol, 1.0 g | ClC1=C(C2=C(OCO2)C(=C1)I)N | C7H5ClINO2
reactant | [(prop-2-yn-1-yloxy)methyl]cyclopropane | 6.72 mmol, 739 mg | C(C#C)OCC1CC1 | C7H10O
reactant | diisopropylamine | 6.74 mmol, 681 mg | C(C)(C)NC(C)C | C6H15N
solvent | ethyl acetate | 12 ml | C(C)(=O)OCC | C4H8O2
catalyst | bis(triphenylphosphine) palladium(II) dichloride | 236 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
catalyst | copper(I) iodide | 64 mg | [Cu]I
product | 5-chloro-7-[3-(cyclopropylmethoxy)prop-1-yn-1-yl]-1,3-benzodioxol-4-amine | 850 mg, 90% | ClC1=C(C2=C(OCO2)C(=C1)C#CCOCC1CC1)N | C14H14ClNO3
